US06894050B2
Preparation of Intermediate 3-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-6′-yloxymethyl)-benzonitrile (I-3b)
A mixture of 3-(6-chloro-pyrazin-2-yloxymethyl)-benzonitrile I-3a (3.53 g, 14.4 mmol) and piperazine (12.4 g, 143.70 mmol) in ethanol (144 mL) was stirred under reflux for 48 h. The reaction mixture was concentrated to dryness and the residue was dissolved in ethyl acetate (300 mL). The ethyl acetate solution was washed with H2O (4×125 mL), brine (125 mL), dried (Na2SO4), filtered, and concentrated to dryness. The crude material was chromatographed over Silica Gel (40 g) using 5% methanol/methylene chloride with 1% NH4OH as the eluant to give 3.03 g of the desired product (I-3b) as a white solid.

reactant | 3-(6-chloro-pyrazin-2-yloxymethyl)-benzonitrile | ClC1=CN=CC(=N1)OCC=1C=C(C#N)C=CC1 | C12H8ClN3O
reactant | piperazine | 143.70 mmol, 12.4 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 144 mL | C(C)O | C2H6O
product | 3-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-6′-yloxymethyl)-benzonitrile | 3.03 g | N1(CCNCC1)C1=NC(=CN=C1)OCC=1C=C(C#N)C=CC1 | C16H17N5O
